US07071184B2
d. Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((4S,7R)-7-methyl-3-oxo-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide
Sulfur trioxide-pyridine complex (0.0.35 g, 2.2 mmol) was added to a solution of Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide (0.19 g, 0.44 mmol) in DMSO (4.0 ml) and triethylamine (0.61 ml, 4.4 mmol) was stirred at RT for 1 h. The reaction mixture was diluted with water, then was extracted with EtOAc. Then, the organic layer was was extracted with brine. The combined organics were dried with magnesium sulfate, filtered, concentrated in vacuo, and purified by column chromatography (3% methanol/methylene chloride) gave the title compound (0.15 mg, 79%): 1H NMR: 7.44(s, 1 H), 7.11(d, 1 H), 7.04(d, 1 H), 6.92(d, 1 H), 6.49(d, 1 H), 5.29(m, 1 H), 4.69(m, 1 H), 3.40(d, 1 H), 3.08(m, 2 H), 2.51(m, 2 H), 1.88–0.81(m, 29 H); Electrospray mass spec: M+H+=432.2.

reactant | Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((3S,4S,7R)-3-hydroxy-7-methyl-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide | 0.44 mmol, 0.19 g | C1(CCCCC1)C[C@@H](C(N[C@@H]1[C@H](CN([C@@H](CC1)C)CCC)O)=O)NC(=O)C=1OC=CC1 | C24H39N3O4
reactant | triethylamine | 4.4 mmol, 0.61 ml | C(C)N(CC)CC | C6H15N
solvent | DMSO | 4.0 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | Furan-2-carboxylic acid [(S)-2-cyclohexyl-1-((4S,7R)-7-methyl-3-oxo-1-propyl-azepan-4-ylcarbamoyl)-ethyl]-amide | 0.15 mg, 79% | C1(CCCCC1)C[C@@H](C(N[C@@H]1C(CN([C@@H](CC1)C)CCC)=O)=O)NC(=O)C=1OC=CC1 | C24H37N3O4
